US06242439B1
To a solution of diisopropylamine (705 μL, 5.03 mmol) in anhydrous THF (12 mL) at −20° was added butyllithium (2.87 mL, 4.60 mmol, 1.6 M in hexane). After the reaction mixture was cooled to −78°, a solution of 4(S)-benzyl-1-(tert-butyldimethyl-silyl)azetidin-2-one (640 mg, 2.32 mmol) in THF (4 mL) was added and the mixture was stirred at −78° for 15 min followed by addition of methyl iodide (488 mg, 214 μL, 3.44 mmol). After 10 min, the reaction mixture was poured into EtOAc (125 mL). The organic phase was washed with aqueous NaHSO4 (1M) and brine, dried (MgSO4), filtered and concentrated. The residual oil was purified by flash chromatography (SiO2, 6% EtOAc in hexane) to give 4(S)-benzyl-1-(tert-butyldimethylsilyl)-3(S)-methylazetidin-2-one (557 mg , 83% yield) as a pale yellow solid. 1H-NMR (400 MHz, CDCl3) δ7.33-7.15 (m, 5H), 3.35 (ddd, J=10.8, 3.8, 2.5 Hz, 1H), 3.21 (dd, J=13.4, 3.8 Hz, 1H), 2.88 (qd, J=7.5, 2.5 Hz, 1H), 2.60 (dd, J=13.4, 10.8 Hz, 1H), 1.02 (d, J=7.5 Hz, 3H), 1.00 (s, 9H), 0.31 (s, 3H), 0.27 (s, 3H).

reactant | diisopropylamine | 5.03 mmol, 705 μL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 4.60 mmol, 1.6 M, 2.87 mL | C(CCC)[Li]
reactant | 4(S)-benzyl-1-(tert-butyldimethyl-silyl)azetidin-2-one | 2.32 mmol, 640 mg | C(C1=CC=CC=C1)[C@H]1CC(N1[Si](C)(C)C(C)(C)C)=O | C16H25NOSi
reactant | methyl iodide | 3.44 mmol, 214 μL, 488 mg | CI | CH3I
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
product | 4(S)-benzyl-1-(tert-butyldimethylsilyl)-3(S)-methylazetidin-2-one | 557 mg, 83% yield | C(C1=CC=CC=C1)[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)C | C17H27NOSi
